US07776847B2
A solution of 3-chloro-N-(4-methoxybenzyl)benzo[d]isothiazole-5-sulfonamide (52 mg, 0.1 mmol) in 1,3-diaminopropane (1 mL) was allowed to stir at room temperature for 80 min. The dark brown reaction mixture was then poured over water (10 mL) and extracted with ethyl acetate. The combined organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to give 3-(3-aminopropylamino)-N-(4-methoxybenzyl)benzo[d]isothiazole-5-sulfonamide (57 mg) as an orange oil. 1H NMR (300 MHz, CD3OD): 8.22 (dd,1H), 7.54 (dd, 1H), 7.29 (dd, 1H), 7.04 (d, 2H), 6.64 (d, 2H), 4.00 (s, 2H), 3.64 (s, 3H), 3.36 (t, 2H), 2.82 (d, 2H), 1.94-2.02 ppm (m, 2H). MW=406 confirmed by LC-MS, tr=7.95 min (Method Y) MH+=407.

reactant | 3-chloro-N-(4-methoxybenzyl)benzo[d]isothiazole-5-sulfonamide | 0.1 mmol, 52 mg | ClC1=NSC2=C1C=C(C=C2)S(=O)(=O)NCC2=CC=C(C=C2)OC | C15H13ClN2O3S2
reactant | water | 10 mL | O | H2O
reactant | 1,3-diaminopropane | 1 mL | NCCCN | C3H10N2
product | 3-(3-aminopropylamino)-N-(4-methoxybenzyl)benzo[d]isothiazole-5-sulfonamide | 57 mg | NCCCNC1=NSC2=C1C=C(C=C2)S(=O)(=O)NCC2=CC=C(C=C2)OC | C18H22N4O3S2
